US07842688B2
b) Methyl 4-bromomethyl-2-(3-methoxypropoxy)benzoate
The mixture of 25.0 g of methyl 2-(3-methoxypropoxy)-4-methylbenzoate, 18.4 g of N-bromosuccinimide, 1.65 g of 2,2′-azobis(2-methylpropionitrile) and 2.46 g of dibenzoyl peroxide in 1.2 l of carbon tetrachloride is heated to reflux with stirring and stirred over 3 hours (succinimide crystallizes out). The reaction mixture is cooled and clarified by filtration, and the filtrate is concentrated by evaporation. The title compound is obtained as a slightly orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.30 (1:1 EtOAc-heptane); Rt=17.10 (II).

reactant | methyl 2-(3-methoxypropoxy)-4-methylbenzoate | 25.0 g | COCCCOC1=C(C(=O)OC)C=CC(=C1)C | C13H18O4
reactant | N-bromosuccinimide | 18.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 1.65 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | dibenzoyl peroxide | 2.46 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | 1.2 l | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 4-bromomethyl-2-(3-methoxypropoxy)benzoate | BrCC1=CC(=C(C(=O)OC)C=C1)OCCCOC | C13H17BrO4
